Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / lisinopril
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
Cardioversion ___

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a PMH significant for 
HFpEF, HLD, HTN, DM, OSA not on CPAP, recently-diagnosed AFib on 
apixiban with RVR, and fatty liver disease presenting with 
recurrent Afib with RVR to 140s. 

Of note, the patient was recently admitted to the Cardiology 
Service at ___ ___ for CHF exacervation in the 
setting of new Afib w/ RVR.  Patient underwent TEE/cardioverson 
on ___ and has been maintained on metoprolol 150mg XL daily 
since then.

Beginning last ___, patient has noticed increasing 
SOB/DOE with intermittent palpitations to the point that she has 
not been able to go to work and finally presented to ___ ED.   

 
In the ___ ED: 
- Initial VS 98.5 97 110/61 24 94%2L  
- EKG: Afib at 145bpm but no ischemic changes
- Labs/studies notable for: BNP 1160 (last admission 975), Na 
129, Cl 89, lactate 3.1, down to 2.3  
- CXR without acute cardiopulm process  
- Patient was given: Metoprolol 5 mg IV, Metoprolol 50 mg PO x2, 
Diltiazem 10 mg IV x2, Apixaban 5mg  
- VS prior to transfer: 98 ___ 97% Nasal Cannula 

Upon arrival to the floor, VS 97.7 128/82 78 18 98%RA. The 
patient is reports feeling much improved with resolution of 
palpitations. She is anxious regarding her overall plan. 

ROS: 
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, ankle edema, syncope or 
presyncope. Denies exertional buttock or calf pain.

On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent fevers, 
chills or rigors. All of the other review of systems were 
negative. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, + Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY:  
- CABG: none  
- PERCUTANEOUS CORONARY INTERVENTIONS: none  
- PACING/ICD: none  
3. OTHER PAST MEDICAL HISTORY:  
* Asthma  
* Hypertension  
* Hyperlipidemia  
* Obstructive sleep apnea, on nasal CPAP  
* Fatty liver disease  
* s/p Roux-en-Y bypass for morbid obesity in ___  
* s/p pulmonary embolism, ECHO ___ showed normal EF but 
presence of PFO (patient denies, has no recollection of blood 
clot in lungs) (have to confirm, pt has no recollection 
thereof)  
* Parathyroid adenoma, followed by Dr. ___  
* Benign palpitations  
* Severe GERD, Barrett's esophagitis (last EGD ___, 
followed by ___ now Dr. ___  
* Depression  
* Right knee pain, ?medial meniscus versus arthritis  
* Fecal incontinence  
* Osteopenia  
* Impaired fasting glucose  
* Venous insufficiency, resolving  
* OSA on CPAP.  
* Diabetes Mellitus II.  
 
Social History:
___
Family History:
Mother died of MI at age ___. Father died of bladder cancer at 
___. Aunt (paternal) died of colon cancer. Paternal aunts were 
heavy smokers. Brother died at ___ years old, cause unclear 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: 97.7 128/82 78 18 98%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Irregularly irregular, slightly tachycardic, normal S1 + S2, 
no appreciable murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: 1+ pitting edema of bilateral lower extremities. Otherwise, 
WWP, 2+ pulses, no clubbing, cyanosis
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:
VS: T 98.2, BP 127/65, HR 90, RR 18, SAT 98% on RA
Wt: 107.4 < - 108.9 kg (last discharge weight 108kg)
GENERAL: anxious appearing woman in NAD. Oriented x3.
NECK: Supple, JVP hard to appreciate given neck thickness 
CARDIAC: Regular rhythm. Normal S1, S2. No murmur appreciated
LUNGS: Resp unlabored, no accessory muscle use. Clear 
throughout, no crackles or wheezes
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: trace ___ edema
 
Pertinent Results:
ADMISSION LABS:
___ 10:00AM BLOOD WBC-9.3 RBC-4.19 Hgb-13.4 Hct-39.8 MCV-95 
MCH-32.0 MCHC-33.7 RDW-12.2 RDWSD-42.5 Plt ___
___ 10:00AM BLOOD Neuts-65.9 ___ Monos-9.5 Eos-1.1 
Baso-0.7 Im ___ AbsNeut-6.15*# AbsLymp-2.07 AbsMono-0.89* 
AbsEos-0.10 AbsBaso-0.07
___ 10:00AM BLOOD Glucose-132* UreaN-9 Creat-0.6 Na-129* 
K-4.4 Cl-89* HCO3-23 AnGap-21*

PERTINENT LABS:
___ 10:21AM BLOOD Lactate-3.1*
___ 07:56PM BLOOD Lactate-2.3*
___ 10:00AM BLOOD proBNP-1160*
___ 06:10AM BLOOD ALT-81* AST-112* AlkPhos-81 TotBili-0.7

DISCHARGE PHYSICAL EXAM:
___ 07:08AM BLOOD WBC-9.1 RBC-3.74* Hgb-12.1 Hct-36.0 
MCV-96 MCH-32.4* MCHC-33.6 RDW-12.4 RDWSD-43.8 Plt ___
___ 07:08AM BLOOD Glucose-149* UreaN-23* Creat-0.7 Na-132* 
K-3.5 Cl-88* HCO3-28 AnGap-20
___ 07:08AM BLOOD Calcium-8.8 Phos-4.9* Mg-1.4*

IMAGES: 
___ CXR
Calcified breast implant overlies the right lower hemi thorax.No 
focal 
consolidation is seen.  No pleural effusion or pneumothorax is 
seen. The 
cardiac and mediastinal silhouettes are unremarkable. 
  
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ with HFpEF, HLD, HTN, DM, OSA not on CPAP, 
recently-diagnosed AFib with RVR on apixiban, and fatty liver 
disease presenting with recurrent Afib with RVR to 140s, now in 
sinus rhythm after cardioversion.

# AFib with RVR: 
Recently diagnosed AFib with RVR during ___ admission. In 
the setting of HFpEF, patient is heavily reliant on atrial kick 
and therefore would benefit from rhythm control. As such, and in 
consultation with patient's outpatient's Cardiologist Dr. ___, 
___ started on amiodarone. She is now successfully 
cardioverted into sinus rhythm ___. She was discharged with 
plan for PO amiodarone load 400mg BID for 2 weeks. Patient will 
follow-up with ___ clinic ___ for discussion of reducing 
dose to 400 daily. Metoprolol XL reduced to 50mg daily from 
150mg daily given new amiodarone. Patient also DC'd on ___ of 
hearts to monitor heart rate following cardioversion and with 
new amiodarone. Patient continued on Epixaban during admission 
and at ___.

# HFpEF: 
Most recent ___ TTE with EF 55%. She has had multiple recent 
admissions for CHF exacerbation, most recently in the setting of 
AFib with RVR. Pro-BNP 1100 slightly up from prior though 
clinically without CHF - on RA, lungs clear, CXR clear, lower 
extremity edema improved from prior. Patient given gentle IV 
diuresis with some symptomatic improvement in SOB. Continued on 
home dose of Lasix 40 mg daily at ___. Given appropriate ___ 
clinic ___.

# Asthma: 
Patient with long history of asthma. Presenting with diffuse 
wheezes, improved with ipratroprium nebs. Given recent afib with 
RVR, advised patient to avoid albuterol unless needed as rescue. 
Prescibed ipratropium inhaler. Continued home Flovent BID and 
Albuterol Q4H PRN wheeze/SOB at ___.

CHRONIC ISSUES:
# HTN: 
SBP currently well-controlled during admission. Beta-blockade 
changed as above. Continued on home losartan 50 mg daily.

# Hypothyroidism: Continued home levothyroxine 88 mcg daily

# GERD: Continued home omeprazole 20 mg daily

# T2DM: Last A1c 9.1 on ___ (PCP ___. Patient continued 
on metformin at ___ with planned close PCP ___.

====================
TRANSITIONAL ISSUES:
====================
- Started on 400 mg amiodarone BID for 2 weeks to obtain oral 
load. Maintenance dose will be adjusted by Dr. ___ 
appointment on ___.
- Metoprolol succinate 150 mg reduced to 50 mg daily
- Patient being discharged with ___ for 2 weeks for 
monitoring after cardioversion and new amiodarone.
- Given recent afib with RVR, advised patient to avoid albuterol 
unless needed as rescue. Prescibed ipratropium inhaler.
- Patient's last A1c 9.1. Will need close PCP ___ and monitoring 
for additional interventions to better control.
- Discharge weight: 107.4 kg
- Code Status: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. Metoprolol Succinate XL 150 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Spironolactone 25 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Flovent HFA (fluticasone) 220 mcg/actuation inhalation 
BID:PRN wheezing 
12. MetFORMIN (Glucophage) 1000 mg PO BID 
13. Losartan Potassium 50 mg PO DAILY 
14. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing, dyspnea 
15. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Amiodarone 400 mg PO BID 
RX *amiodarone 400 mg 1 tablet(s) by mouth twice a day Disp #*24 
Tablet Refills:*1
3. Vitamin D ___ UNIT PO DAILY 
4. Apixaban 5 mg PO BID 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 20 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Flovent HFA (fluticasone) 220 mcg/actuation inhalation 
BID:PRN wheezing 
9. Furosemide 40 mg PO DAILY 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Losartan Potassium 50 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing, dyspnea 
15. Spironolactone 25 mg PO DAILY 
16. Ipratropium Bromide MDI 2 PUFF IH Q6H:PRN wheezing 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 2 Puffs every six 
(6) hours Disp #*1 Inhaler Refills:*0
17. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Afib w/ RVR, s/p cardioversion
Acute on chronic ___
Asthma

SECONDARY:
Anxiety
HTN
DM
Fatty Liver Disease
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for recurrence of an abnormal heart 
rate called atrial fibrillation. You had a cardioversion on 
___ which was successful in converting you back into a 
normal rhythm. You were also started on a new medication to 
prevent the atrial fibrillation from occurring again.

At discharge, you weighed 237 lbs. Please weigh yourself every 
day in the morning after you go to the bathroom and before you 
get dressed. If your weight goes up by more than 3 lbs in 1 day 
or more than 5 lbs in 3 days, please call your heart doctor or 
your primary care doctor and alert them to this change.

We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.

It was a pleasure to take care of you. We wish you the best with 
your health.

Sincerely,

Your ___ Cardiac Care Team
 
Followup Instructions:
___